US05089509
Ethyl 6-[2-(4,4,7-trimethylthiochroman-6-yl)ethynyl]nicotinate
A mixture of 86 mg (0.4 mmol) of 4,4,7-trimethyl-6-ethynylthiochroman, 85 mg (0.46 mmol) of ethyl 6-chloronicotinate and 0.8 ml of triethylamine was degassed under nitrogen and then treated with a mixture of 10 mg (0.05 mmol) of cuprous iodide and 20 mg (0.03 mmol) of bis(triphenylphosphine) palladium (II) chloride. The reaction mixture was heated at 55° C. under a nitrogen atmosphere for 18 hours. The mixture was then extracted with 1.5 ml of 40% ethyl acetate in hexanes and purified by flash chromatography (silica; 10% ethyl acetate in hexanes) to give the title compound as a yellow solid.

reactant | 4,4,7-trimethyl-6-ethynylthiochroman | 0.4 mmol, 86 mg | CC1(CCSC2=CC(=C(C=C12)C#C)C)C | C14H16S
reactant | ethyl 6-chloronicotinate | 0.46 mmol, 85 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.03 mmol, 20 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 6-[2-(4,4,7-trimethylthiochroman-6-yl)ethynyl]nicotinate | CC1(CCSC2=CC(=C(C=C12)C#CC1=NC=C(C(=O)OCC)C=C1)C)C | C22H23NO2S
